US04795755
A solution of 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeronitrile (2 g.) in MeOH (15 ml.) and chloroform (35 ml.) at 0° was saturated with HCl gas and the solution allowed to stand for 62 hours at 0°. The solvent was evaporated and the residue partitioned between aqueous potassium carbonate and chloroform. The chloroform extracts were washed, dried and evaporated to give methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate as pale yellow oil.

reactant | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeronitrile | 2 g | FC(CN=C(NC1=NN(C=N1)CCCCC#N)N)(F)F | C10H14F3N7
reactant | HCl | Cl | ClH
reactant | MeOH | 15 ml | CO | CH4O
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate | FC(CN=C(NC1=NN(C=N1)CCCCC(OC)=N)N)(F)F | C11H18F3N7O
